US09376441B2
(R)-4-((R)-1-((3-cyclopropyl-6-(1,3-dimethyl-1H-indazol-5-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one:
To a 25 ml 3-neck flask with condenser and magnetic stir bar was added (R)-4-((R)-1-((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-on (120 mg, 0.33 mmol), 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole (112 mg, 0.41 mmol) and Pd(PPh3)4 (32 mg, 0.027 mmol) then evacuated and filled with N2 3×. Added 2 mL DME and 2N SODIUM CARBONATE (0.41 ml, 0.82 mmol) via syringe and heated in a 105° C. oil bath for 2 hrs at which time LC-MS indicated a complete reaction. Let cool. Workup: EtOAc, water, brine, dried over Na2SO4, filtered and concentrated. Purified by chromatography: ISCO, 24 g silica Gold, 0-6% MeOH/DCM to give desired product as a white solid.

reactant | (R)-4-((R)-1-((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-on | 0.33 mmol, 120 mg | BrC1=CC2=C(C(=N1)O[C@H](C)[C@@H]1CC(NC1)=O)N(C=N2)C2CC2 | C15H17BrN4O2
reactant | 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | 0.41 mmol, 112 mg | CN1N=C(C2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)C | C15H21BN2O2
reactant | SODIUM CARBONATE | 0.82 mmol, 2N, 0.41 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.027 mmol, 32 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 2 mL | COCCOC | C4H10O2
product | (R)-4-((R)-1-((3-cyclopropyl-6-(1,3-dimethyl-1H-indazol-5-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=NC(=C2)C=2C=C1C(=NN(C1=CC2)C)C)O[C@H](C)[C@@H]2CC(NC2)=O | C24H26N6O2
